* Schematics Netlist *



R_R4         0 $N_0001  100k  
R_R3         $N_0001 $N_0002  100k  
R_R2         $N_0004 $N_0003  40k  
C_C1         $N_0002 $N_0003  0.1u IC=0 
X_U1         $N_0001 $N_0004 pos neg $N_0003 uA741
V_V1         pos 0 15V
C_C2         0 $N_0001  0.1u IC=0 
R_R1         0 $N_0004  20k  
V_V2         0 neg 15V
V_V7         $N_0007 0 0.1V
X_U8         0 $N_0008 pos neg $N_0009 uA741
R_R19         $N_0012 $N_0008  1k  
R_R20         $N_0008 $N_0009  1k  
R_R17         $N_0007 $N_0013  1k  
X_U10         0 $N_0013 pos neg $N_0012 uA741
X_U6         0 $N_0016 pos neg $N_0017 uA741
R_R12         $N_0016 $N_0017  1k  
R_R11         $N_0020 $N_0016  15k  
R_R13         $N_0017 $N_0021  1k  
X_U11         $N_0022 $N_0023 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U12         $N_0024 0 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U14         $N_0023 0 Sw_tClose PARAMS: tClose=10 ttran=1u Rclosed=0.01
+  Ropen=1Meg
X_U13         $N_0022 $N_0024 Sw_tClose PARAMS: tClose=10 ttran=1u Rclosed=0.01
+  Ropen=1Meg
R_R16         $N_0024 $N_0023  1k  
X_U9         $N_0025 $N_0009 pos 0 $N_0022 uA741
V_V9         $N_0025 $N_0021 1
R_R5         $N_0003 $N_0028  1k  
X_U3         0 $N_0029 pos neg $N_0030 uA741
V_V4         $N_0033 0 1.184V
V_V5         0 $N_0034 1.184V
X_U4         $N_0030 0 $N_0033 $N_0034 $N_0035 uA741
X_U5         0 $N_0038 pos neg $N_0020 uA741
R_R10         $N_0035 $N_0038  100  
C_C3         $N_0038 $N_0020  10u  
R_R9         $N_0029 $N_0030  71.43k  
R_R8         $N_0041 $N_0029  1k  
V_V8         $N_0041 $N_0028 20.8m
X_R18    $N_0012 $N_0013 $N_0013 DC_Motor_Control_R18 

.subckt DC_Motor_Control_R18 1 2 t  
RT_R18         1 t {(19k*(1-0.9))+.001}
RB_R18         t 2 {(19k*0.9)+.001}
.ends DC_Motor_Control_R18
